US07906179B2
Preparation of N-butyl-1,1-dimethyl-1-sila-2-azacyclopentane (silane 2)
An initial charge of 508 g (6.94 mol) of 1-butylamine is admixed dropwise over the course of 2.5 h with 171 g (1.00 mol) of chloropropyldimethylchlorosilane and the mixture is heated at reflux for 12 h. Following distillative removal of the excess 1-butylamine, the residue is diluted with 350 ml of toluene and cooled to 10° C. The precipitate it forms is filtered off and the filtrate is distilled in vacuo. This gives 134.5 g of N-butyl-1,1-dimethyl-1-sila-2-azacyclopentane.

reactant | 1-butylamine | 6.94 mol, 508 g | C(CCC)N | C4H11N
reactant | chloropropyldimethylchlorosilane | 1.00 mol, 171 g | ClCCC[Si](Cl)(C)C | C5H12Cl2Si
product | N-butyl-1,1-dimethyl-1-sila-2-azacyclopentane | C(CCC)N1[Si](CCC1)(C)C | C9H21NSi
